US04130649
2-(4-Hydroxy-5-oxo-1,3,6-cycloheptatrien-1-ylamino)-2-butenedioic Acid Diethyl Ester (11; R1 = CH2CH3, R3 and R5 = H and R4 = OH)
A solution of diethyl acetylenedicarboxylate (183.5 g) and 5-amino-2-hydroxy-2,4,6-cycloheptatriene-1-one [147.5 g, described by T. Nozoe et al., Science Repts. Tokoku Univ., First ser., 35, 274(1952)] in ethanol (2,700 ml) is stirred at room temperature for 16 hours. The mixture is filtered and the precipitate is crystallized from ethanol to obtain crystals of the title compound, mp 108.5° C.

reactant | diethyl acetylenedicarboxylate | 183.5 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
reactant | 5-amino-2-hydroxy-2,4,6-cycloheptatriene-1-one | 147.5 g | NC1=CC=C(C(C=C1)=O)O | C7H7NO2
solvent | ethanol | 2,700 ml | C(C)O | C2H6O
product | 2-(4-Hydroxy-5-oxo-1,3,6-cycloheptatrien-1-ylamino)-2-butenedioic Acid Diethyl Ester | C(C)OC(C(=CC(=O)OCC)NC1=CC=C(C(C=C1)=O)O)=O | C15H17NO6
